US05846989
b) 2-(2-Phenyl-1-propoxy)acetamide
The subtitle compound (4.39 g) was prepared according to the procedure in example 5 part b using 2-(2-phenyl-1-propoxy)acetic acid (5.0 g), oxalyl chloride 4.5 ml), concentrated ammonium hydroxide (20 ml), and toluene (30 ml).

reactant | 2-(2-phenyl-1-propoxy)acetic acid | 5.0 g | C1(=CC=CC=C1)C(COCC(=O)O)C | C11H14O3
reactant | oxalyl chloride | 4.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | 20 ml | [OH-].[NH4+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Phenyl-1-propoxy)acetamide | 4.39 g | C1(=CC=CC=C1)C(COCC(=O)N)C | C11H15NO2
